US07691882B2
2-Fluoro-4-(pyridin-2-yloxymethyl)-benzaldehyde
To a solution of 2-(4-[1,3]dioxolan-2-yl-3-fluoro-benzyloxy)-pyridine (2.17 g, 7.88 mmol) described in Manufacturing Example 204-1-4 in methanol (10 mL) and tetrahydrofuran (10 mL) was added 5 N hydrochloric acid (8.43 mL, 8.43 mmol). This solution was stirred for 15 minutes at room temperature. This mixture was cooled to 0° C. and neutralized with a saturated sodium hydrogencarbonate aqueous solution, after which it was extracted with ethyl acetate. The organic layer was separated, washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure to obtain the title compound (1.81 g). The title compound was used in the following reaction without any further purification.

reactant | 2-(4-[1,3]dioxolan-2-yl-3-fluoro-benzyloxy)-pyridine | 7.88 mmol, 2.17 g | O1C(OCC1)C1=C(C=C(COC2=NC=CC=C2)C=C1)F | C15H14FNO3
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 8.43 mmol, 5 N, 8.43 mL | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 2-Fluoro-4-(pyridin-2-yloxymethyl)-benzaldehyde | 1.81 g | FC1=C(C=O)C=CC(=C1)COC1=NC=CC=C1 | C13H10FNO2
